*===========================================*
* PMOS I_D vs V_DS using LEVEL=1 Model
* Sweep VDS from 0V to -1.2V (negative for PMOS!)
* Multiple VGS curves to show characteristic families
* PMOS conducts when VGS is NEGATIVE
*===========================================*

* --- IMPORTANT PMOS CONVENTIONS ---
* For PMOS (P-channel MOSFET):
* - Source is typically at HIGH voltage (VDD)
* - Drain is at LOWER voltage
* - VGS must be NEGATIVE to turn ON (VGS < Vth, where Vth is negative)
* - Current flows from SOURCE to DRAIN (opposite of NMOS)
* - VDS is typically NEGATIVE in normal operation
* - Threshold voltage VTO is NEGATIVE (e.g., -0.4V)

* --- VOLTAGE SOURCES ---

VGS G 0 DC 0
* VGS: Gate voltage source
* G: Positive terminal at gate node
* 0: Negative terminal at ground
* DC: DC voltage source
* 0: Initial value (will be swept from -0.4V to -1.2V)
* Purpose: Controls gate-source voltage
* For PMOS: VGS must be NEGATIVE to turn transistor ON
* When VGS < Vth (e.g., VGS < -0.4V), transistor conducts

VDS D 0 DC 0
* VDS: Drain voltage source
* D: Positive terminal at drain node  
* 0: Negative terminal at ground
* DC: DC voltage source
* 0: Initial value (will be swept from 0V to -1.2V)
* Purpose: Controls drain-source voltage
* For PMOS: VDS is typically NEGATIVE during conduction
* Negative VDS means drain is at lower voltage than source

* --- PMOS TRANSISTOR DEFINITION ---

M1 D G 0 0 PLEVEL1 W=20u L=1u
* M1: PMOS transistor instance name
* D: Drain terminal connected to node D
* G: Gate terminal connected to node G
* 0 (first): Source terminal connected to ground (acts as VDD here)
* 0 (second): Bulk/Body terminal connected to ground
*    Note: For PMOS, bulk is typically tied to VDD (highest voltage)
*    In this test circuit, both source and bulk at ground (0V)
* PLEVEL1: Model name (references .model below)
* W=20u: Channel width = 20 micrometers
*    PMOS typically needs to be ~2x wider than NMOS
*    This is because hole mobility is ~2-3x lower than electron mobility
*    Wider PMOS compensates for lower mobility
* L=1u: Channel length = 1 micrometer
* BETA_p = (W/L) × KP = 20 × 100u = 2mA/V^2
*    Same BETA as the NMOS example (allows balanced inverter design)

* --- PMOS MODEL PARAMETERS ---

.model PLEVEL1 PMOS LEVEL=1 VTO=-0.4 KP=100u LAMBDA=0.02
* .model: Command to define transistor model
* PLEVEL1: Model name (must match M1 definition)
* PMOS: Specifies P-channel MOSFET (holes are charge carriers)
* LEVEL=1: Shichman-Hodges model (basic square-law model)
*
* VTO=-0.4: Threshold voltage = -0.4V (NEGATIVE for PMOS!)
*    PMOS turns ON when VGS < VTO (more negative than threshold)
*    Example: If VGS = -0.6V, then VGS < -0.4V → transistor ON
*    Overdrive voltage: |VGS - VTO| = |-0.6 - (-0.4)| = 0.2V
*    Also written as Vthp or Vth in equations
*
* KP=100u: Process transconductance = 100uA/V^2 
*    About HALF of NMOS KP (200u)
*    This reflects lower hole mobility compared to electrons
*    u_p ≈ 0.4 × u_n (holes move slower than electrons)
*    Units: Amperes per Volt-squared
*
* LAMBDA=0.02: Channel-length modulation = 0.02 V⁻¹
*    Same value as NMOS
*    Creates slight slope in saturation region
*    Models finite output resistance

* --- NESTED DC SWEEP FOR MULTIPLE CURVES ---

.dc VDS 0 -1.2 -0.01 VGS -0.4 -1.2 -0.2
* .dc: DC sweep analysis command
*
* PRIMARY SWEEP (inner loop - x-axis):
*    VDS: Voltage source to sweep (drain-source)
*    0: Start at 0 Volts
*    -1.2: End at -1.2 Volts (NEGATIVE!)
*    -0.01: Step size = -10mV (negative step for negative sweep)
*    Points per curve: (0 - (-1.2)) / 0.01 = 120 points
*    Sweeps from 0V down to -1.2V
*
* SECONDARY SWEEP (outer loop - creates multiple curves):
*    VGS: Gate-source voltage to sweep
*    -0.4: Start at -0.4V (= threshold, barely ON)
*    -1.2: End at -1.2V (strongly ON)
*    -0.2: Step size = -0.2V (negative step)
*    Number of curves: ((-0.4) - (-1.2)) / 0.2 + 1 = 5 curves
*
* CURVES GENERATED:
* Curve 1: VGS = -0.4V (at threshold, minimal current)
* Curve 2: VGS = -0.6V (moderate conduction)
* Curve 3: VGS = -0.8V (higher conduction)
* Curve 4: VGS = -1.0V (strong conduction)
* Curve 5: VGS = -1.2V (maximum conduction in this range)

* --- OUTPUT SPECIFICATION ---

.plot DC I(M1)
* .plot: Specify what to plot
* DC: Use DC analysis results
* I(M1): Drain current through M1
* Note: For PMOS, current is NEGATIVE (flows from S to D)
*       LTspice will plot as negative values
*       You may want to plot -I(M1) to see positive curves
* Alternative: .plot DC -I(M1) for positive y-axis values

* --- END OF NETLIST ---

.end
* Required end statement

*===========================================*
* PMOS OPERATING REGIONS EXPLANATION
*===========================================*
*
* For PMOS, all voltages are typically NEGATIVE relative to source
* Using ABSOLUTE VALUES for clarity: |VGS|, |VDS|, |Vth|
*
* CUTOFF REGION:
* Condition: VGS > Vth (less negative than threshold)
* Example: If Vth = -0.4V and VGS = -0.2V, then VGS > Vth → OFF
* For our sweep: N/A (all VGS values ≤ -0.4V, so always ON)
* Current: Ids = 0
*
* LINEAR (TRIODE) REGION:
* Condition: VGS ≤ Vth AND |VDS| < |VGS - Vth|
* Alternate form: VGS ≤ Vth AND VDS > (VGS - Vth)
* Physical meaning: Channel exists along entire length
* Transistor acts as voltage-controlled resistor
* Current increases with |VDS|
*
* Equation:
* Ids = BETA_p[(VGS - Vth)VDS - VDS^2/2](1 + LAMBDA×|VDS|)
* Note: All terms negative, so Ids comes out negative
*
* For Curve 5 (VGS = -1.2V):
*    Vth = -0.4V
*    VGS - Vth = -1.2 - (-0.4) = -0.8V
*    Linear region: 0V > VDS > -0.8V
*    Saturation starts when: VDS = VGS - Vth = -0.8V
*
* SATURATION REGION:
* Condition: VGS ≤ Vth AND |VDS| ≥ |VGS - Vth|
* Alternate form: VGS ≤ Vth AND VDS ≤ (VGS - Vth)
* Physical meaning: Channel pinched off at drain end
* Transistor acts as current source
* Current nearly constant, slight increase with |VDS|
*
* Equation:
* Ids = (BETA_p/2)(VGS - Vth)^2(1 + LAMBDA×|VDS|)
*
* Vdssat (saturation voltage) = VGS - Vth
*
*===========================================*
* DETAILED REGION CALCULATIONS FOR EACH CURVE
*===========================================*
*
* CURVE 1: VGS = -0.4V
* -------------------------
* Vth = -0.4V
* VGS - Vth = -0.4 - (-0.4) = 0V
* 
* Vdssat = 0V (immediately in saturation)
* Linear region: None (VDS from 0V to 0V)
* Saturation region: 0V to -1.2V (entire range)
*
* Saturation current:
* Ids_sat = (BETA_p/2)(VGS - Vth)^2
*         = (2mA/V^2 / 2) × (0V)^2
*         = 0mA
* Transistor barely turns on, almost no current
*
*
* CURVE 2: VGS = -0.6V
* -------------------------
* Vth = -0.4V
* VGS - Vth = -0.6 - (-0.4) = -0.2V
* |VGS - Vth| = 0.2V (overdrive)
*
* Vdssat = -0.2V
* Linear region: 0V > VDS > -0.2V
* Saturation region: -0.2V ≥ VDS ≥ -1.2V
*
* Saturation current:
* Ids_sat = (1mA/V^2) × (-0.2V)^2
*         = 1mA/V^2 × 0.04V^2
*         = 0.04mA = 40uA (negative direction)
* Display as: -40uA or 40uA magnitude
*
*
* CURVE 3: VGS = -0.8V
* -------------------------
* Vth = -0.4V  
* VGS - Vth = -0.8 - (-0.4) = -0.4V
* |VGS - Vth| = 0.4V
*
* Vdssat = -0.4V
* Linear region: 0V > VDS > -0.4V
* Saturation region: -0.4V ≥ VDS ≥ -1.2V
*
* Saturation current:
* Ids_sat = (1mA/V^2) × (-0.4V)^2
*         = 1mA/V^2 × 0.16V^2
*         = 0.16mA = 160uA (negative)
*
*
* CURVE 4: VGS = -1.0V
* -------------------------
* Vth = -0.4V
* VGS - Vth = -1.0 - (-0.4) = -0.6V
* |VGS - Vth| = 0.6V
*
* Vdssat = -0.6V
* Linear region: 0V > VDS > -0.6V  
* Saturation region: -0.6V ≥ VDS ≥ -1.2V
*
* Saturation current:
* Ids_sat = (1mA/V^2) × (-0.6V)^2
*         = 1mA/V^2 × 0.36V^2
*         = 0.36mA = 360uA (negative)
*
*
* CURVE 5: VGS = -1.2V
* -------------------------
* Vth = -0.4V
* VGS - Vth = -1.2 - (-0.4) = -0.8V
* |VGS - Vth| = 0.8V
*
* Vdssat = -0.8V
* Linear region: 0V > VDS > -0.8V
* Saturation region: -0.8V ≥ VDS ≥ -1.2V
*
* Saturation current:
* Ids_sat = (1mA/V^2) × (-0.8V)^2
*         = 1mA/V^2 × 0.64V^2
*         = 0.64mA = 640uA (negative)
*
*
*       Magnitude increases as |VGS| increases
*       Saturation current ∝ (VGS - Vth)^2
*
*===========================================*